US05019575
6-[4-(2,2-diacetylvinyl)aminophenyl]-4,5-dihydropyridazin-3(2H)one
A solution containing 0.38 g of 6-(4-aminophenyl)-4,5-dihydropyridazin-3(2H)one and 0.4 g of 3-ethoxymethylene-2,4-pentanedione in 5 ml of ethanol was refluxed for 1 h. Yield 0.3 g, mp 218°-222° C.

reactant | 6-(4-aminophenyl)-4,5-dihydropyridazin-3(2H)one | 0.38 g | NC1=CC=C(C=C1)C=1CCC(NN1)=O | C10H11N3O
reactant | 3-ethoxymethylene-2,4-pentanedione | 0.4 g | C(C)OC=C(C(C)=O)C(C)=O | C8H12O3
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 6-[4-(2,2-diacetylvinyl)aminophenyl]-4,5-dihydropyridazin-3(2H)one | C(C)(=O)C(=CNC1=CC=C(C=C1)C=1CCC(NN1)=O)C(C)=O | C16H17N3O3
